US06455550B1
4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (67 mg, 0.176 mmol) and 2,6-dichlorobenzoyl chloride (50 mg, 0.23 mmol) were dissolved in 5 mL of dichloromethane and 2,6-lutidine (50 μL, 0.43 mmol) were added. After 4 hours, the mixture was diluted with ether and dichloromethane and washed with 1 N HCl, water, and saturated NAHCO3 and was dried (MgSO4). The crude product was dissolved in 4 mL of methanol and treated with 4 N NaOH (0.1 mL). After 2 hours, the excess base was quenched with 0.1 mL of acetic acid, the solution was filtered through a 0.2μ nylon filter and the filtrate was purified by RP-HPLC on a 4×30 cm Rainin C-18 column using a gradient of 5 to 95% acetonitrile:water containing 0.75% trifluoroacetic acid at a flow of 49 mL/min over 30 min. The peak eluting at 87% acetonitrile was concentrated and lyophilized to give 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine (46 mg), LR(+)LSIMS: m/z 539 (M+H) (2 Cl).

reactant | 4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.176 mmol, 67 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C23H28N2O3
reactant | 2,6-dichlorobenzoyl chloride | 0.23 mmol, 50 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | 2,6-lutidine | 0.43 mmol, 50 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine | 46 mg | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CC2=CC=CC=C2)C(=O)O)C=C1 | C29H28Cl2N2O4
